US06599917B1
b) 2-Benzyl-6-[(3S,4R)-3-chloro-4-methoxypyrrolidine-1-yl]-3-iodopyridine
A mixture of 553 g of 2-benzyl-6-((3R,4R)-3-(3-nitrobenzenesulfonyl)oxy-4-methoxypyrrolidine-1-yl]-3-iodopyridine, 79 mg of lithium chloride and 5.0 ml of N,N-dimethylformamide was heated under stirring at 75° C. for 9 hours. After cooling as it was, water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic phase was washed with water and brine, and the solvent was removed. The residue was subjected to NH-silica gel (Fuji Silicia) column chromatography and eluted with hexane/ethyl acetate (10:1) and then with hexane/ethyl acetate (5:1), to give 391 mg of the target compound.

reactant | 2-benzyl-6-((3R,4R)-3-(3-nitrobenzenesulfonyl)oxy-4-methoxypyrrolidine-1-yl]-3-iodopyridine | 553 g | C(C1=CC=CC=C1)C1=NC(=CC=C1I)N1C[C@H]([C@@H](C1)OC)OS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C23H22IN3O6S
reactant | lithium chloride | 79 mg | [Cl-].[Li+]
reactant | N,N-dimethylformamide | 5.0 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-Benzyl-6-[(3S,4R)-3-chloro-4-methoxypyrrolidine-1-yl]-3-iodopyridine | 391 mg | C(C1=CC=CC=C1)C1=NC(=CC=C1I)N1C[C@@H]([C@@H](C1)OC)Cl | C17H18ClIN2O
